US04272507
26.3 g (0.1 mole) of 4-(3-chloro-2-methylanilino)-3-thiophenacetonitrile are introduced into 135 ml of concentrated sulfuric acid; the resulting mixture is stirred at 20° for 1 hour; 49 ml of water are then added dropwise and the obtained mixture is heated to 100° for 3 hours. It is poured onto ice, and the precipitate, which has formed, is filtered off. Recrystallization from diisopropyl ether gives 4-(3-chloro-2-methylanilino)-3-thiophenacetic acid. m. 126° to 128°.

reactant | 4-(3-chloro-2-methylanilino)-3-thiophenacetonitrile | 0.1 mole, 26.3 g | ClC=1C(=C(NC=2C(=CSC2)CC#N)C=CC1)C | C13H11ClN2S
reactant | sulfuric acid | 135 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 49 ml | O | H2O
product | 4-(3-chloro-2-methylanilino)-3-thiophenacetic acid | ClC=1C(=C(NC=2C(=CSC2)CC(=O)O)C=CC1)C | C13H12ClNO2S
